US20010025790A1
0.035 g sulfuric acid and 0.025 g hydrochinone are dissolved in 64 g water and heated up to 90° C. Within 3 h a total of 50 g glycidyl-methacrylate are slowly added to the stirred hot solution. After an additional hour at 90° C. the solution is cooled down to 40° C. The water is removed at about 40 mbar. A clear viscous solution of the monomer glycerol-methacrylate is obtained. 100 g of the above glycerol-methacrylate, 2 g N,N′-methylene-bis-acrylamide and 1.0 ml N,N,N′,N′-tetraethylenediamine are dissolved in 150 ml 1.5 M KCl solution containing 60% glycerol at 50° C. After cooling down the mixture to room temperature 6 g highly dispersed silicic acid are added. The solution is stirred intensively for 30 minutes. 0.5 g ammoniumpersulfate are added to the stirred solution. Then the reference electrodes are filled as in example 1. The polymerization was completed at 70° C. after 2 hours. The reference electrodes are stored in 1.5 M KCl solution containing 60% glycerol.

reactant | sulfuric acid | 0.035 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrochinone | 0.025 g | C1=CC(=CC=C1O)O | C6H6O2
reactant | glycidyl-methacrylate | 50 g | C(C1CO1)OC(C(=C)C)=O | C7H10O3
solvent | water | 64 g | O | H2O
product | glycerol methacrylate | OCC(O)CO.C(C(=C)C)(=O)[O-] | InChI=1S/C4H6O2.C3H8O3/c1-3(2)4(5)6;4-1-3(6)2-5/h1H2,2H3,(H,5,6);3-6H,1-2H2/p-1
